US08304419B2
Step A: 3-chloro-5-({6-chloro-2-fluoro-3-[(methylamino)methyl]phenyl}oxy)benzonitrile
A solution of 3-{[3-(bromomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (1.04 g, 2.77 mmol) in CH2Cl2 (10 mL) was added dropwise to a 2M solution of MeNH2 (13.9 mL, 27.73 mmol) in THF. The solution turned light yellow and the flask was stoppered and stirred at RT overnight. Ethyl acetate (200 ml) and saturated NaHCO3 solution (150 ml) were added. The organic layer was separated, washed with brine (150 mL), dried over MgSO4, filtered and concentrated to give the title compound (0.81 g, 90%) as a yellow oil. 1H NMR (400 MHz, CDCl3) δ ppm 7.30-7.33 (m, 1H), 7.24-7.30 (m, 2H), 7.11-7.14 (m, 1H), 6.98 (dd, 1H), 3.81 (s, 2H), 2.45 (s, 3H).

reactant | 3-{[3-(bromomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 2.77 mmol, 1.04 g | BrCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H7BrCl2FNO
reactant | MeNH2 | 27.73 mmol, 13.9 mL | CN | CH5N
reactant | Ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
reactant | NaHCO3 | 150 ml | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
product | 3-chloro-5-({6-chloro-2-fluoro-3-[(methylamino)methyl]phenyl}oxy)benzonitrile | 0.81 g, 90% | ClC=1C=C(C#N)C=C(C1)OC1=C(C(=CC=C1Cl)CNC)F | C15H11Cl2FN2O
